US04057647
A solution of 2',4'-difluoro-4-biphenylylmagnesium bromide, obtained from 2.69 g. of 4-bromo-2',4'-difluorobiphenyl and 0.24 g. of magnesium in 100 ml. of ether, is added dropwise at 20° to a stirred solution of 1.3 g. of ethyl acetoacetate in 40 ml. of ether. The mixture is stirred for 2 hours more and the resulting alcoholate is decomposed with ice and saturated NH4Cl solution. The ether phase is dried and evaporated to give 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester, m.p. 96°-97°.

reactant | 4-bromo-2',4'-difluorobiphenyl | BrC1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C12H7BrF2
reactant | magnesium | [Mg] | Mg
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | CCOCC | C4H10O
product | 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester | C(C)OC(CC(C)(O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C18H18F2O3
